US06991914B2
2.5 g of 3-chloro-4-methyl-7-hydroxy coumarin was dissolved in 60 ml of tetrahydrofuran in a 250 ml flask, followed by the addition of 3.6 g of potassium carbonate and 3.6 ml of triethylamine. After 30 minutes, 8.0 ml of lauroyl chloride was added thereto and the mixture was stirred for 2 hours at room temperature. Thereafter, 50 ml of distilled water and 250 ml of ethyl acetate were added to extract the title compound into the ethyl acetate phase. The ethyl acetate phase was washed with 200 ml of salt water, and then dried with anhydrous manganese. Following the distillation and evaporation of the solvent, the residue was recrystalized with hexane and ethyl acetate to obtain white 3-chloro-4-methyl-7-hydroxy coumarin laurate.

reactant | 3-chloro-4-methyl-7-hydroxy coumarin | 2.5 g | ClC=1C(OC2=CC(=CC=C2C1C)O)=O | C10H7ClO3
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | lauroyl chloride | 8.0 ml | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 3-chloro-4-methyl-7-hydroxy coumarin laurate | C(CCCCCCCCCCC)(=O)O.ClC=1C(OC2=CC(=CC=C2C1C)O)=O | InChI=1S/C12H24O2.C10H7ClO3/c1-2-3-4-5-6-7-8-9-10-11-12(13)14;1-5-7-3-2-6(12)4-8(7)14-10(13)9(5)11/h2-11H2,1H3,(H,13,14);2-4,12H,1H3
